US06538004B2
4-(3,4-dichlorophenyl)-1,6,6-trimethyl-4,7,8,9-tetrahydro-1H-pyrazolo[3,4-b]quinoline-3,5(2H,6H)-dione
5-Amino-1-methyl-1,2-dihydropyrazol-3-one (0.08 g, 0.75 mmol), 3,4 dichlorobenzaldehyde (0.13 g, 0.75 mmol), and 4,4-dimethyl-1,3-cyclohexanedione (0.10 g, 0.75 mmol) were processed as described in Example 22 to provide 0.2 g (67%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 0.92 (s, 3H), 0.99 (s, 3H), 1.78 (t, 2H), 2.65 (m, 2H), 3.45 (s, 3H), 4.83 (s, 1H), 7.08 (dd, 1H), 7.29 (d, 1H), 7.42 (d, 1H), 9.52 (s, 1H), 9.68 (s, 1H); MS (ESI−) m/z 390 (M−H)−; Anal. calcd for C19H19N3Cl2O2: C, 58.16;H, 4.84; N, 10.71. Found: C, 58.23;H, 4.75; N, 10.68.

reactant | 5-Amino-1-methyl-1,2-dihydropyrazol-3-one | 0.75 mmol, 0.08 g | NC1=CC(NN1C)=O | C4H7N3O
reactant | 3,4 dichlorobenzaldehyde | 0.75 mmol, 0.13 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 4,4-dimethyl-1,3-cyclohexanedione | 0.75 mmol, 0.10 g | CC1(C(CC(CC1)=O)=O)C | C8H12O2
product | 4-(3,4-dichlorophenyl)-1,6,6-trimethyl-4,7,8,9-tetrahydro-1H-pyrazolo[3,4-b]quinoline-3,5(2H,6H)-dione | 0.2 g, 67% | ClC=1C=C(C=CC1Cl)C1C2=C(NC=3CCC(C(C13)=O)(C)C)N(NC2=O)C | C19H19Cl2N3O2
